US09029531B2
Step D: methyl 2-(5-(dimethylamino)pyridin-2-yl)acetate
To the solution of methyl 2-(5-aminopyridin-2-yl)acetate (800 mg, 4.8 mmol) and paraformaldehyde (578.3 mg, 19.3 mmol) in methanol (20 mL) was added NaBH3CN (1.2 g, 19.26 mmol) and AcOH (1 drop, cat.). The mixture was stirred at room temperature for 12 h. Then, the reaction was quenched with aqueous ammonium chloride and extracted with DCM. The organic layer was with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by a standard method to get desired product.

reactant | methyl 2-(5-aminopyridin-2-yl)acetate | 4.8 mmol, 800 mg | NC=1C=CC(=NC1)CC(=O)OC | C8H10N2O2
reactant | paraformaldehyde | 19.3 mmol, 578.3 mg | C=O | CH2O
reactant | NaBH3CN | 19.26 mmol, 1.2 g | [BH3-]C#N.[Na+]
solvent | methanol | 20 mL | CO | CH4O
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
product | methyl 2-(5-(dimethylamino)pyridin-2-yl)acetate | CN(C=1C=CC(=NC1)CC(=O)OC)C | C10H14N2O2
